
XU1 N001 N004 N002 N003 Vout LM741/NS
C1 N001 0 16n
R1 N001 0 10000
C2 P001 N001 16n
R2 Vout P001 10000
V1 0 N003 15
V2 N002 0 15
R3 N004 0 10000
R4 Vout N004 20000
.tran 0.01 20 UIC
.include LM741.MOD
.control
run
*plot V(Vout)
wrdata ee18btech11044_3_2.dat V(Vout)
.end
